US06949571B2
3-Benzoylamino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
30 mg of 3-amino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one was dissolved in 1 ml of methylene chloride and 1 ml of pyridine, to which 19 mg of benzoyl chloride was added with cooling with ice, and the mixture was stirred at room temperature for a night. The reaction mixture was concentrated, diluted with ethyl acetate, and washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried by magnesium sulfate, and refined by NH silica gel chromatography (ethyl acetate). The solvent was concentrated, and the resultant crude crystal was washed with ethyl acetate/hexane, to obtain 35 mg of the subject compound.

reactant | 3-amino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 30 mg | NC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H13N3O
reactant | benzoyl chloride | 19 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-Benzoylamino-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 35 mg | C(C1=CC=CC=C1)(=O)NC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C23H17N3O2
